US06043337
1-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)-2,4-dinitrobenzene (3.7 g) was treated with pentafluoronitrobenzene (2.21 g) and triethylamine (0.96 g) in NMP (5 mL) for 18 hrs at room temperature. The mixture was diluted with water, acidified with hydrochloric acid, and extracted with ethyl ether. The extracts were washed with water, dried (MgSO4), concentrated and purified by chromatography to give 4-[6-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5-octaflurohexyloxy]-2,3,5,6-tetrafluoronitrobenzene (5.0 g) as an oil.

reactant | 1-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)-2,4-dinitrobenzene | 3.7 g | OCC(C(C(C(COC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])(F)F)(F)F)(F)F)(F)F | C12H8F8N2O6
reactant | pentafluoronitrobenzene | 2.21 g | FC1=C(C(=C(C(=C1[N+](=O)[O-])F)F)F)F | C6F5NO2
reactant | triethylamine | 0.96 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-[6-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5-octaflurohexyloxy]-2,3,5,6-tetrafluoronitrobenzene | 5.0 g | [N+](=O)([O-])C1=C(OCC(C(C(C(COC2=C(C(=C(C(=C2F)F)[N+](=O)[O-])F)F)(F)F)(F)F)(F)F)(F)F)C=CC(=C1)[N+](=O)[O-] | C18H7F12N3O8
